US07163947B2
A solution of N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isobutylamine (1.16 g, 3.89 mmol) in 30 mL of CH2Cl2 was treated with MCPBA (1.25 g, 5.05 mmol, 77% max). After 1.5 h, the reaction mixture was treated with 15 mL of concentrated NH4OH solution and p-toluenesulfonyl chloride (0.78 g, 4.08 mmol). After 30 min the reaction mixture was diluted with CH2Cl2 and water, and the phases were separated. The organic portion was washed with 2% Na2CO3 solution and water. The combined aqueous washes were back extracted with CHCl3 (2×). The combined organic portions were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a brown foam. Chromatography (SiO2, 97:3 CHCl3:MeOH) yielded 2-ethoxymethyl-N1-isobutyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.049 g) as an off white solid. mp 137–140° C.; 1H NMR (300 MHz, DMSO-d6, 350 K) δ 8.47 (dd, J=8.1, 0.9 Hz, 1H), 7.60 (d, J=8.3 Hz, 1H), 7.45–7.36 (m, 1H), 7.28–7.19 (m, 1H), 6.67 (t, J=6.2 Hz, 1H), 6.22 (s, 2H), 4.76 (s, 2H), 3.64 (q, J=7.0 Hz, 2H), 3.02 (t, J=6.4 Hz, 2H), 1.97 (s, J=6.7 Hz, 1H), 1.19 (t, J=7.0 Hz, 3H), 1.05 (d J=6.7 Hz, 6H); 13C NMR (75 MHz, DMSO-d6) δ 151.9, 148.9, 144.8, 131.9, 126.9, 125.7, 123.8, 120.8, 114.2, 65.4, 62.8, 59.6, 26.7, 20.5, 14.9; MS (APCI) m/z 314 (M+H)+; Anal. Calcd for C17H23N5O: C, 65.15; H, 7.40; N, 22.35; Found: C, 64.88; H, 7.39; N, 22.38.

reactant | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isobutylamine | 3.89 mmol, 1.16 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)NCC(C)C | C17H22N4O
reactant | MCPBA | 5.05 mmol, 1.25 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NH4OH | 15 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 4.08 mmol, 0.78 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxymethyl-N1-isobutyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.049 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)NCC(C)C | C17H23N5O
